US05919969
Ethyl N-(2-chloro-4-dodecylsulphonylphenyl)-2-(3-benzyl-2,5-dioxo-1,3-diazolidin-1-yl)malonamate
Diethyl 2-(3-benzyl-2,5-dioxo-1,3-diazolidin-1-yl)-malonate (19.3 g, 55.5 mmol) and (4-amino-3-chloro-phenyl)dodecylsulphone (20.0 g,56.0 mmol) were added to xylene (100 ml) and refluxed under Dean and Stark conditions for 80 hr, occasionally removing a small amount of distillate and replenishing the solvent as necessary. The reaction was followed by TLC (1:2 ethyl acetate:60-80° C. petroleum ether), the Rf of the product being between that of the two starting materials. The xylene was removed on the rotary evaporator and the residual yellowish oil stirred with 60-80° C. petroleum ether (100 ml), allowed to settle and decanted from the oil. This removed some front-running impurities. On standing the oil solidified to a crystalline mass which was crystallized from toluene and petrol to give a white solid, 17.0 g, 46%.

reactant | Diethyl 2-(3-benzyl-2,5-dioxo-1,3-diazolidin-1-yl)-malonate | 55.5 mmol, 19.3 g | C(C1=CC=CC=C1)N1C(N(C(C1)=O)C(C(=O)OCC)C(=O)OCC)=O | C17H20N2O6
reactant | (4-amino-3-chloro-phenyl)dodecylsulphone | 56.0 mmol, 20.0 g | NC1=C(C=C(C=C1)S(=O)(=O)CCCCCCCCCCCC)Cl | C18H30ClNO2S
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl N-(2-chloro-4-dodecylsulphonylphenyl)-2-(3-benzyl-2,5-dioxo-1,3-diazolidin-1-yl)malonamate | ClC1=C(C=CC(=C1)S(=O)(=O)CCCCCCCCCCCC)NC(C(C(=O)OCC)N1C(N(CC1=O)CC1=CC=CC=C1)=O)=O | C33H44ClN3O7S
